Simple RC example
.option post
Vin in gnd pwl 0ps 0 100us 0 150us 1.0 1ms 1.0
R1 in out 1k
C1 out gnd 1u
.tran 20us 5ms
.control
run
set color0 = white
set color1 = black
plot v(in) v(out)
.endc

.end
